US06610846B1
A solution of (4-methoxymethylsulfanyl-phenyl)-acetic acid methyl ester (441 mg, 1.90 mmol) in methanol (1 mL), water (0.5 mL), and tetrahydrofuran (0.5 mL) was treated with lithium hydroxide (51 mg, 2.1 mmol). The reaction mixture was stirred at 25° C. for 20 h. At this time, the reaction was concentrated in vacuo. The residue was re-dissolved in water and extracted with ethyl acetate. The aqueous layer was then acidified to pH=1 with a 1N aqueous hydrochloric acid solution. This solution was extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to afford (4-methoxymethylsulfanyl-phenyl)-acetic acid (402 mg, 100%) as a clear oil which was used without further purification.

reactant | (4-methoxymethylsulfanyl-phenyl)-acetic acid methyl ester | 1.90 mmol, 441 mg | COC(CC1=CC=C(C=C1)SCOC)=O | C11H14O3S
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 2.1 mmol, 51 mg | [OH-].[Li+]
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | (4-methoxymethylsulfanyl-phenyl)-acetic acid | 402 mg, 100% | COCSC1=CC=C(C=C1)CC(=O)O | C10H12O3S
